US07223769B2
In 3 ml of chloroform was dissolved 0.42 g of 3-[6-(2-butynyloxy)pyrimidin-4-yloxy]-2-methyl-2-butanol, to which 0.2 g of pyridine was added and 0.15 ml of thionyl chloride was added dropwise at −13° C., followed by stirring 2 hours. The reaction mixture was then poured into water, which was extracted three times with chloroform. The combined organic layers were washed with a saturated aqueous sodium hydrogencarbonate, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.23 g of 4-(2-butynyloxy)-6-(1,2-dimethylallyloxy)pyrimidine.

reactant | 3-[6-(2-butynyloxy)pyrimidin-4-yloxy]-2-methyl-2-butanol | 0.42 g | C(C#CC)OC1=CC(=NC=N1)OC(C(C)(O)C)C | C13H18N2O3
reactant | pyridine | 0.2 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-butynyloxy)-6-(1,2-dimethylallyloxy)pyrimidine | 0.23 g | C(C#CC)OC1=NC=NC(=C1)OC(C(=C)C)C | C13H16N2O2
